US09079866B2
5-{3-Fluoro-2′-[(4-methylpyrimidin-2-yl)oxy]biphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)-4-methylpyrimidine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C21H16FN5O, 373.13; m/z found, 374.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.44 (s, 2H), 8.39 (d, J=5.1, 1H), 7.57-7.44 (m, 3H), 7.41-7.31 (m, 3H), 7.25 (d, J=7.2, 1H), 7.07 (d, J=4.9, 1H), 6.89 (s, 2H), 2.35 (s, 3H).

reactant | 2-(2-bromophenoxy)-4-methylpyrimidine | BrC1=C(OC2=NC=CC(=N2)C)C=CC=C1 | C11H9BrN2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{3-Fluoro-2′-[(4-methylpyrimidin-2-yl)oxy]biphenyl-4-yl}pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)OC1=NC=CC(=N1)C | C21H16FN5O
